US08138345B2
Preparation of Biphenyl-2-ylcarbamic Acid 1-(2-{[4-(4-{[(R)-2-(tert-butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)-ethylamino]methyl}-2,5-dimethylphenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester
To the stirred solution of biphenyl-2-ylcarbamic acid 1-(2-{[4-(4-formyl-2,5-dimethylphenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl ester (˜0.748 mmol) in DCM from the previous reaction was added 5-[(R)-2-amino-1-(tert-butyldimethylsilanyloxy)ethyl]-8-hydroxy-1H-quinolin-2-one acetic acid salt (0.295 g, 0.748 mmol) in 1:1 MeOH:DCM (3.0 mL). The resulting mixture was stirred at room temperature for 30 min and then sodium triacetoxyborohydride (0.476 g, 2.24 mmol) was added and stirring was continued at room temperature for 4 h. Aqueous NaOH (1 M, 3 mL) and DCM (3 mL) were added and the layers were separated. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel flash chromatography (0-15% MeOH in DCM) to give the title compound (420 mg, 60% yield) as a yellow solid.

reactant | biphenyl-2-ylcarbamic acid 1-(2-{[4-(4-formyl-2,5-dimethylphenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl ester | ˜0.748 mmol | C(=O)C1=CC(=C(C=C1C)NC(=O)CCCCN(C(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C)C | C36H44N4O5
reactant | 5-[(R)-2-amino-1-(tert-butyldimethylsilanyloxy)ethyl]-8-hydroxy-1H-quinolin-2-one acetic acid salt | 0.748 mmol, 0.295 g | C(C)(=O)O.NC[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)O)=O
reactant | sodium triacetoxyborohydride | 2.24 mmol, 0.476 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1 M, 3 mL | [OH-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | Biphenyl-2-ylcarbamic Acid 1-(2-{[4-(4-{[(R)-2-(tert-butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)-ethylamino]methyl}-2,5-dimethylphenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester | 420 mg, 60% yield | [Si](C)(C)(C(C)(C)C)O[C@@H](CNCC1=CC(=C(C=C1C)NC(=O)CCCCN(C(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C)C)C1=C2C=CC(NC2=C(C=C1)O)=O | C53H70N6O7Si
